US09416135B2
To a solution of (R)-methyl 2-(4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (15 mg, 0.028 mmol) in methanol (4 mL) was added NaHCO3 (25 mg, 0.29 mmol). The mixture was stirred at 60° C. for 20 h. The mixture was concentrated under vacuum. Water (5 mL) and EtOAc (5 mL) were added to the mixture. The aqueous phase was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-methyl 1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (13.0 mg, 87.2% yield) as a white solid.

reactant | (R)-methyl 2-(4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.028 mmol, 15 mg | ClC1=NC(=NC=C1C(F)(F)F)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C | C21H21ClF3N5O4S
reactant | NaHCO3 | 0.29 mmol, 25 mg | C(=O)(O)[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | (R)-methyl 1-isopropyl-2-(4-methoxy-5-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 13.0 mg, 87.2% yield | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)OC)C(F)(F)F)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C22H24F3N5O5S
